US06689922B1
(4E,6E)-7-[3-(3,4-bis-Hydroxymethylphenoxy-methyl)phenyl]-3-ethylocta-4,6-dien-3-ol
In a manner similar to Example 57(c) by reacting 520 mg (0.83 mmol) of (4E,6E)-7-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-phenyl}-3-ethylocta-4,6-dien-3-ol with 2.5 ml of a tetrabutylammonium fluoride solution (1N in THF), a colourless oil is obtained (m=164 mg; Y=50%).

reactant | (4E,6E)-7-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-phenyl}-3-ethylocta-4,6-dien-3-ol | 0.83 mmol, 520 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2C=C(C=CC2)/C(=C/C=C/C(CC)(O)CC)/C)C=CC1CO[Si](C)(C)C(C)(C)C | C37H60O4Si2
reactant | tetrabutylammonium fluoride | 1N, 2.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (4E,6E)-7-[3-(3,4-bis-Hydroxymethylphenoxy-methyl)phenyl]-3-ethylocta-4,6-dien-3-ol | OCC=1C=C(OCC=2C=C(C=CC2)/C(=C/C=C/C(CC)(O)CC)/C)C=CC1CO | C25H32O4
